US09388173B2
To a solution of 3-bromobenzoic acid (500 mg, 2.49 mmol) in DCM (12 mL) was added morpholine (260 mg, 2.99 mmol), EDCI (1.43 g, 7.47 mmol) and HOBt (1.0 g, 7.47 mmol). The mixture was stirred at room temperature for 4 h. The reaction solution was diluted with water and extracted with DCM. The organic layer was concentrated to give the desired (3-bromophenyl)(morpholino) methanone as a crude product which was used in next step without further purification. LCMS (m/z): 270.1/271.1 [M+H]+/[M+2H]+

reactant | 3-bromobenzoic acid | 2.49 mmol, 500 mg | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | morpholine | 2.99 mmol, 260 mg | N1CCOCC1 | C4H9NO
reactant | EDCI | 7.47 mmol, 1.43 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 7.47 mmol, 1.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (3-bromophenyl)(morpholino) methanone | BrC=1C=C(C=CC1)C(=O)N1CCOCC1 | C11H12BrNO2
